US08232426B2
28.1 [4-(4-Isopropyl-phenylsulfanylmethyl)-phenyl]-acetic acid
To a solution of 4-(isopropyl)thiophenol (10 g, 65.68 mmol) in N,N-dimethylformamide (200 ml) sodium hydride (3.15 g, 131.35 mmol) was added. The exothermic reaction was allowed to cool down to room temperature. At 15° C. a solution of (4-bromomethyl-phenyl)-acetic acid (15.04 g, 65.68 mmol) in N,N-dimethylformamide (100 ml) was added. After stirring the reaction mixture at room temperature for 16 h the mixture was concentrated, diluted with water, and adjusted to pH=2 by adding HCl (2N). The aqueous phase was extracted three times with ethyl acetate. The combined organic layers were dried over MgSO4, filtered, and the solvent evaporated under reduced pressure to give the product as a yellow oil (19.5 g, 99%).

reactant | 4-(isopropyl)thiophenol | 65.68 mmol, 10 g | C(C)(C)C1=CC=C(C=C1)S | C9H12S
reactant | (4-bromomethyl-phenyl)-acetic acid | 65.68 mmol, 15.04 g | BrCC1=CC=C(C=C1)CC(=O)O | C9H9BrO2
solvent | N,N-dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
solvent | N,N-dimethylformamide | 131.35 mmol, 200 ml, 3.15 g | CN(C=O)C | C3H7NO
product | [4-(4-Isopropyl-phenylsulfanylmethyl)-phenyl]-acetic acid | 19.5 g, 99% | C(C)(C)C1=CC=C(C=C1)SCC1=CC=C(C=C1)CC(=O)O | C18H20O2S
